US04013688
estra-1,3,5(10)-triene-3,11β,17β-triol 11-acid succinate
This reduction procedure is useful for the preparation of the 11α-acid succinates of 11α-hydroxy analogs of dehydroepiandrosterone, pregnenolone, progesterone, 3β-hydroxy-estr-5-en-17-one, and 5α-androstane-3,17-dione to 11α-hydroxy succinate derivatives of androst-5-ene-3β,17β-diol, pregn-5-ene-3β,20α and 20β diols, pregn-4-ene-3,20α and 20β diols, estr-5-en-3β,17β-diol and 5α-androstane-3β,17β-diol.

reactant | dehydroepiandrosterone | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3(CC[C@@H](C4)O)C | C19H28O2
reactant | pregnenolone | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C | C21H32O2
reactant | progesterone | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C | C21H30O2
reactant | 3β-hydroxy-estr-5-en-17-one | O[C@@H]1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@H]2CC1)=O | C18H26O2
reactant | 5α-androstane-3,17-dione | C[C@@]12C(CC[C@H]1[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H28O2
reactant | androst-5-ene-3β,17β-diol | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C19H30O2
reactant | estr-5-en-3β,17β-diol | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC=C3C[C@H](CC[C@@H]3[C@H]1CC2)O)O | C18H28O2
reactant | 5α-androstane-3β,17β-diol | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC[C@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C19H32O2
product | estra-1,3,5(10)-triene-3,11β,17β-triol | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC=3C=C(C=CC3[C@H]1[C@H](C2)O)O)O | C18H24O3
